US06153608
3,5-Dimethyl-hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride
To a suspension of 1.5 g of 2,7-dimethyl-hexahydro-1H-1,4-diazepine hydrobromide obtained in Reference Example 3 in 30 ml of pyridine was added 1.58 g of 1,8-diazabicyclo[5.4.0]-7-undecene, and after addition of 0.84 g of 5-chlorosulfonyl-4-methyl-isoquinoline, the mixture was stirred at room temperature for 1 hour. This reaction mixture was concentrated and the residue was diluted with water, extracted with chloroform, dried, and concentrated. The residue was purified by silica gel column chromatography (chloroform/methanol=30/1) and converted to the hydrochloride in the routine manner to provide 0.70 g of the objective compound (white crystals).

reactant | 2,7-dimethyl-hexahydro-1H-1,4-diazepine hydrobromide | 1.5 g | Br.CC1NC(CCNC1)C
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 1.58 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-chlorosulfonyl-4-methyl-isoquinoline | 0.84 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-Dimethyl-hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride | 0.70 g | Cl.CC1CN(CCC(N1)C)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | InChI=1S/C17H23N3O2S.ClH/c1-12-9-18-10-15-5-4-6-16(17(12)15)23(21,22)20-8-7-13(2)19-14(3)11-20;/h4-6,9-10,13-14,19H,7-8,11H2,1-3H3;1H
